US09427475B2
Step E: 2-(benzylamino)ethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside
To a solution of 2-aminoethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside (8.56 g, 25.7 mmol) in CH2Cl2 (100 mL) was added benzaldehyde (2.197 ml, 21.67 mmol), acetic acid (372 μL, 6.50 mmol) and NaCNBH3 (3.40 g, 54.2 mmol). After stirring at rt for 16 hr, the reaction mixture was concentrated and the residue was partitioned between EtOAc (50 mL) and sat. NaHCO3 (50 mL). The organic phase separated, washed with sat'd NaHCO3 (2×100 mL), brine (100 mL), dried over MgSO4, and concentrated. The residue was purified by flash chromatography on C18 reverse phase silica gel (130 g), eluting with 0-100% AcCN in water to give the title compound. UPLC Method B: m/e=424.2089 [M+1]; Rt=3.42 min.

reactant | 2-aminoethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside | 25.7 mmol, 8.56 g | C(C)(=O)O[C@@H]1[C@H](OCCN)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C14H23NO8
reactant | benzaldehyde | 21.67 mmol, 2.197 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 6.50 mmol, 372 μL | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 54.2 mmol, 3.40 g | [BH3-]C#N.[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(benzylamino)ethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside | C(C)(=O)O[C@@H]1[C@H](OCCNCC2=CC=CC=C2)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C21H29NO8
